US04656179
Preparation of 1-[bis(hydroxymethyl)-methyl]-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline
The 6,7-diethoxy analogue of the above compound can be prepared in an analogous manner, starting from 1-[bis(hydroxymethyl)-methyl]-6,7-diethoxy-3,4-dihydroisoquinoline; melting point: 127° to 128 C.° (benzene).

reactant | 1-[bis(hydroxymethyl)-methyl]-6,7-diethoxy-3,4-dihydroisoquinoline | OCC(C1=NCCC2=CC(=C(C=C12)OCC)OCC)CO | C16H23NO4
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-[bis(hydroxymethyl)-methyl]-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline | OCC(C1NCCC2=CC(=C(C=C12)OC)OC)CO | C14H21NO4
